US04263304
5-β-Morpholinoethyloxy-7-methyl-10-chloro-7H-indolo(2,3-c)isoquinoline (melting point 140°-142° C.) is prepared from 7-methyl-10-chloro-7H-indolo(2,3-c)isoquinolin-5(6H)-one, sodium hydride and β-morpholinoethyl chloride by the method described in Example 8.

reactant | 7-methyl-10-chloro-7H-indolo(2,3-c)isoquinolin-5(6H)-one | CN1C=2C=CC(=CC2C2=C1NC(C1=CC=CC=C21)=O)Cl | C16H11ClN2O
reactant | sodium hydride | [H-].[Na+]
reactant | β-morpholinoethyl chloride | O1CCN(CC1)CCCl | C6H12ClNO
product | 5-β-Morpholinoethyloxy-7-methyl-10-chloro-7H-indolo(2,3-c)isoquinoline | O1CCN(CC1)CCOC1=NC2=C(C3=CC=CC=C13)C=1C=C(C=CC1N2C)Cl | C22H22ClN3O2
